US07893056B2
A solution of ((2R)-2-(cyclopentylmethyl)-3-{2-[6-(4-ethyl-1-piperazinyl)-5-fluoro-2-(methyloxy)-4-pyrimidinyl]hydrazino}-3-oxopropyl)[(phenylmethyl)oxy]formamide (0.145 g, 0.26 mmol), and Pd(C) (0.030 g) in MeOH (10 mL) was run under standard hydrogenation conditions as in General Procedure A, Part C, to provide ((2R)-2-(cyclopentylmethyl)-3-{2-[6-(4-ethyl-1-piperazinyl)-5-fluoro-2-(methyloxy)-4-pyrimidinyl]hydrazino}-3-oxopropyl)hydroxyformamide as a red solid (0.119 g, 98%). LCMS: (M+H)+=468.4.

reactant | ((2R)-2-(cyclopentylmethyl)-3-{2-[6-(4-ethyl-1-piperazinyl)-5-fluoro-2-(methyloxy)-4-pyrimidinyl]hydrazino}-3-oxopropyl)[(phenylmethyl)oxy]formamide | 0.26 mmol, 0.145 g | C1(CCCC1)C[C@H](CN(C=O)OCC1=CC=CC=C1)C(=O)NNC1=NC(=NC(=C1F)N1CCN(CC1)CC)OC | C28H40FN7O4
solvent | MeOH | 10 mL | CO | CH4O
product | ((2R)-2-(cyclopentylmethyl)-3-{2-[6-(4-ethyl-1-piperazinyl)-5-fluoro-2-(methyloxy)-4-pyrimidinyl]hydrazino}-3-oxopropyl)hydroxyformamide | 0.119 g, 98% | C1(CCCC1)C[C@H](CN(C=O)O)C(=O)NNC1=NC(=NC(=C1F)N1CCN(CC1)CC)OC | C21H34FN7O4
